US08859611B2
A mixture of 1-(4-bromophenyl)-2-methyl-1H-imidazole (3.6 g, 15.3 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (4.3 g, 16.8 mmol), KOAc (3.0 g, 30.5 mmol), and Pd(dppf)Cl2 (559 mg, 0.76 mmol) in DMF (40 mL) was stirred at 100° C. overnight. When TLC indicated the starting material was consumed, the mixture was concentrated and purified by column chromatography (PE:EtOAc=1:2) to afford 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazole (1.1 g, yield 26%).

reactant | 1-(4-bromophenyl)-2-methyl-1H-imidazole | 15.3 mmol, 3.6 g | BrC1=CC=C(C=C1)N1C(=NC=C1)C | C10H9BrN2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 16.8 mmol, 4.3 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 30.5 mmol, 3.0 g | CC(=O)[O-].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.76 mmol, 559 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazole | 1.1 g, yield 26% | CC=1N(C=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
